US06376672B1
In analogy to the procedure described in example 1(k) the (3R,4R,5S)-4-(4-allyloxy-phenyl)-3-(4-methoxy-naphthalen-2-ylmethoxy)-5-[(2R)-oxiranylmethoxy]-piperidine-1-carboxylic acid tert-butyl ester was treated with sodium methylate in N,N-dimethylformamide to yield the (3S,4R,5R)-4-(4-allyloxy-phenyl)-3-[(2R)-2-hydroxy-3-methoxy-propoxy]-5-(4-methoxy-naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester as colorless oil; MS: 608 (M+H)+.

reactant | (3R,4R,5S)-4-(4-allyloxy-phenyl)-3-(4-methoxy-naphthalen-2-ylmethoxy)-5-[(2R)-oxiranylmethoxy]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H]([C@@H](C1)OC[C@@H]1OC1)C1=CC=C(C=C1)OCC=C)OCC1=CC2=CC=CC=C2C(=C1)OC | C34H41NO7
reactant | sodium methylate | C[O-].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | (3S,4R,5R)-4-(4-allyloxy-phenyl)-3-[(2R)-2-hydroxy-3-methoxy-propoxy]-5-(4-methoxy-naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H]([C@H](C1)OCC1=CC2=CC=CC=C2C(=C1)OC)C1=CC=C(C=C1)OCC=C)OC[C@@H](COC)O | C35H45NO8
